US04496588
To a solution of 3-hydroxymethyl-3-amino-2-piperidone (7 g or 0.049 mole) in anhydrous dimethylformamide (50 ml) is added one equivalent of thionyl chloride (3.6 ml). The reaction mixture is stirred at 80° C. under nitrogen. After 24 hours, another equivalent of thionyl chloride (3.6 ml) is added and stirring is continued for 2 hours. Then the solvent is stripped off under reduced pressure. Trituration of the semi-solid residue with chloroform (2×30 ml) leaves 2.1 g of crystalline, analytically pure 3-amino-3-chloromethyl-2-piperidone hydrochloride, m.p. 230° C.

reactant | 3-hydroxymethyl-3-amino-2-piperidone | 0.049 mole, 7 g | OCC1(C(NCCC1)=O)N | C6H12N2O2
reactant | thionyl chloride | 3.6 ml, one equivalent | S(=O)(Cl)Cl | Cl2OS
reactant | thionyl chloride | 3.6 ml | S(=O)(Cl)Cl | Cl2OS
reactant | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 3-amino-3-chloromethyl-2-piperidone hydrochloride | Cl.NC1(C(NCCC1)=O)CCl | InChI=1S/C6H11ClN2O.ClH/c7-4-6(8)2-1-3-9-5(6)10;/h1-4,8H2,(H,9,10);1H
